US08624026B2
Step 1: Preparation of (2R)-1-(2,4,5-trifluorophenyl)-4-pentene-2-ol
CuBr(CH3)2 (3.3 g) was added to a reactor under the nitrogen atmosphere and cooled to −78° C. Vinylmagnesium bromide (240 ml) was added slowly to the reactor and stirred for 20 min. (2S)-2-(2,4,5-trifluorobenzyl)-oxirane (30 g) dissolved in THF (90 ml) was added dropwise slowly over 30 min, stirred at −78° C. for 30 min, and heated to 0° C. 2N aqueous HCl (300 ml) was added slowly to the resulting mixture, and the organic layer formed thereafter was separated. The separated organic layer was washed twice with satuated saline, dried over MgSO4, and filtered. The organic solvent was removed from the filtrate under a reduced pressure to obtain the title compound (34.5 g; yield: 100%).

reactant | Vinylmagnesium bromide | 240 ml | C(=C)[Mg]Br
reactant | (2S)-2-(2,4,5-trifluorobenzyl)-oxirane | 30 g | FC1=C(C[C@@H]2OC2)C=C(C(=C1)F)F | C9H7F3O
reactant | HCl | 2N, 300 ml | Cl | ClH
solvent | THF | 90 ml | C1CCOC1 | C4H8O
product | (2R)-1-(2,4,5-trifluorophenyl)-4-pentene-2-ol | 34.5 g, yield: 100% | FC1=C(C=C(C(=C1)F)F)C[C@@H](CC=C)O | C11H11F3O
